US06528538B1
2-(4-Chlorophenyl)-5,5-diphenyl[1,3]oxazinane
This product is obtained by reacting 3-amino-2,2-diphenyl-1-propanol with 4-chlorobenzaldehyde in refluxing toluene in the presence of p-toluenesulphonic acid for 5 hours.

reactant | 3-amino-2,2-diphenyl-1-propanol | NCC(CO)(C1=CC=CC=C1)C1=CC=CC=C1 | C15H17NO
reactant | 4-chlorobenzaldehyde | ClC1=CC=C(C=O)C=C1 | C7H5ClO
reactant | p-toluenesulphonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-(4-Chlorophenyl)-5,5-diphenyl[1,3]oxazinane | ClC1=CC=C(C=C1)C1OCC(CN1)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H20ClNO
